US07977367B2
Intermediate: (R)-methyl 3-cyclopentyl-2-hydroxypropanoate (I-1b)
A solution of Li2CuCl4 (0.2 M in THF, 125 mL, 25.0 mmol) was added slowly to a suspension of cyclopentylmagnesium bromide (2 M in diethyl ether, 135 mL, 270 mmol; Aldrich Chemical Company, Inc., Milwaukee, Wis.) and THF (500 mL) at −50° C. over 2-3 mins. The pale grey/brown suspension was then allowed to warm slowly to −10° C. over 30 mins, by which time the color had developed to a dark grey. The mixture was re-cooled to −78° C. and (R)-methyl oxirane-2-carboxylate (25.0 g, 245 mmol; Aldrich Chemical Company, Inc., Milwaukee, Wis.) was added neat via syringe over 90 seconds. The reaction was then stirred at −78° C. for 20 mins, before removing the ice-bath and allowing to warm to approximately −50° C. over 30 mins. Saturated NH4Cl (aq, 700 mL) was then added and the mixture stirred for 30 mins. The organic layer was collected and the aqueous layer extracted with diethyl ether (2×250 mL). The combined organics were washed with saturated NH4Cl (aq, 350 mL), dried over MgSO4, and evaporated. Distillation of the crude residue (68-70° C. at 0.8 mbar) yielded 65-70% of (I-1b) as a pale yellow oil. A small amount of less volatile material remained in the still pot. 1H NMR (400 MHz; CDCl3): δ 4.17(1H), 3.76 (3H), 2.67 (1H), 2.01 (1H), 1.48-1.88 (8H), 1.11 (2H).

reactant | cyclopentylmagnesium bromide | 270 mmol, 2 M, 135 mL | C1(CCCC1)[Mg]Br
reactant | (R)-methyl oxirane-2-carboxylate | 245 mmol, 25.0 g | O1[C@H](C1)C(=O)OC | C4H6O3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (R)-methyl 3-cyclopentyl-2-hydroxypropanoate | C1(CCCC1)C[C@H](C(=O)OC)O | C9H16O3
